US04027027
A mixture of 106 g of benzaldehyde, 89 g of 2-amino-2-methyl-1-propanol, 2 ml of glacial acetic acid and 500 ml of benzene is heated for 3 hours under reflux, using a water separator. After completion of the reaction, the mixture is evaporated and the residue is dissolved in 2 liters of ethanol. After adding a total of 76 g of sodium borohydride in portions over the course of 2-3 hours, continuing to stir the mixture overnight at room temperature, and working up in the usual manner, 2-benzylamino-2-methyl-1-propanol is obtained, which melts at 50°-55° C. after crystallisation from ether.

reactant | benzaldehyde | 106 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-amino-2-methyl-1-propanol | 89 g | NC(CO)(C)C | C4H11NO
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
product | 2-benzylamino-2-methyl-1-propanol | C(C1=CC=CC=C1)NC(CO)(C)C | C11H17NO
